US08802670B2
2-chloro-6-((4-(methylsulfonyl)piperazin-1-yl)methyl)-4-morpholinofuro[3,2-d]pyrimidine (1 eq), azaindole boronic ester (1.7 eq) and bis(triphenylphosphine)palladium(II) dichloride (0.1 eq) in 1M Na2CO3 aqueous solution (3 eq) and an equal volume of acetonitrile (3 eq) was heated to 130° C. in a sealed microwave reactor for 10 min. Upon completion, the reaction mixture was concentrated and crude mixture was purified by reverse phase HPLC to yield 12 mg of 5-(4-morpholinofuro[2,3-d]pyrimidin-2-yl)pyrimidin-2-amine. MS (Q1) 498 (M)+. 141: 2-chloro-6-((4-(methylsulfonyl)piperazin-1-yl)methyl)-4-morpholinofuro[2,3-d]pyrimidine (1 eq), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (1.7 eq) and bis(triphenylphosphine)palladium(II) dichloride (0.1 eq) in 1M KOAc aqueous solution (3 eq) and an equal volume of acetonitrile (3 eq) was heated to 140° C. in a sealed microwave reactor for 10 min. Upon completion, the reaction mixture was concentrated and crude mixture was purified by reverse phase HPLC to yield 16 mg of 2-(1H-indazol-4-yl)-6-((4-methylsulfonylpiperazin-1-yl)methyl)-4-morpholinofuro[2,3-d]pyrimidine. MS (Q1) 498 (M)+. 128: 2-chloro-6-((4-(methylsulfonyl)piperazin-1-yl)methyl)-4-morpholinofuro[3,2-d]pyrimidine (1 eq), indole boronic ester (1.7 eq) and bis(triphenylphosphine)palladium(II) dichloride (0.1 eq) in 1M Na2CO3 aqueous solution (3 eq) and an equal volume of acetonitrile (3 eq) was heated to 140° C. in a sealed microwave reactor for 10 min. Upon completion, the reaction mixture was concentrated and crude mixture was purified by reverse phase HPLC to yield 12 mg of 5-(4-morpholinofuro[2,3-d]pyrimidin-2-yl)pyrimidin-2-amine. MS (Q1) 497 (M)+. 133: Prepared from the appropriate intermediate according to General Procedure A using 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine. The compound is obtained after reverse phase HPLC purification (49 mg). MS (Q1) 514 (M)+ 130: To 2-chloro-4-morpholinothieno[3,2-d]pyrimidine-6-carbaldehyde (100 mg, 0.35 mmol) in 1,2-dichloroethane (2 mL) was added AcOH (20 μL, 0.35 mmol) and 4-Amino-1-BOC-piperidine (210 mg, 1.05 mmol). The resulting solution stirred overnight at room temperature then Na(OAc)3BH (90 mg, 0.42 mmol) was added and the reaction stirred 4 h at room temperature. The reaction was quenched with water and extracted with DCM then EtOAc. The combined organics were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was dissolved in MeOH (5 mL) and AcOH (80 μL), then formaldehyde (37%, 31 μL) and NaCNBH3 (26 mg, 0.42 mmol) were added. The reaction mixture was allowed to stir overnight then additional formaldehyde (37%, 56 μL) was added to drive the reaction to completion.

reactant | 2-chloro-6-((4-(methylsulfonyl)piperazin-1-yl)methyl)-4-morpholinofuro[2,3-d]pyrimidine | 1 eq | ClC=1N=C(C2=C(N1)OC(=C2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H22ClN5O4S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | 1.7 eq | CC1(OB(OC1(C)C)C1=C2C=NNC2=CC=C1)C | C13H17BN2O2
reactant | KOAc | 1M, 3 eq | CC(=O)[O-].[K+]
reactant | acetonitrile | 3 eq | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(1H-indazol-4-yl)-6-((4-methylsulfonylpiperazin-1-yl)methyl)-4-morpholinofuro[2,3-d]pyrimidine | 16 mg | N1N=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)OC(=C2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C23H27N7O4S
